US07615549B2
(a) 1-(3-fluoro-4-nitro-phenyl)-1H-pyridin-2-one
2.5 g (26.3 mmol) 2-hydroxypyridine, 2.9 ml (26.3 mmol) 2,4-difluoronitrobenzene, are dissolved in 100 ml acetone, combined with 4.0 g (28.9 mmol) potassium carbonate and stirred for one day at ambient temperature. The undissolved matter is filtered off and the salt residues are rinsed with acetone. The combined organic phases are evaporated to dryness. The residue is purified by chromatography (silica gel; eluant: cyclohexane-ethyl acetate gradient).

reactant | 2-hydroxypyridine | 26.3 mmol, 2.5 g | OC1=NC=CC=C1 | C5H5NO
reactant | 2,4-difluoronitrobenzene | 26.3 mmol, 2.9 ml | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 28.9 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(3-fluoro-4-nitro-phenyl)-1H-pyridin-2-one | FC=1C=C(C=CC1[N+](=O)[O-])N1C(C=CC=C1)=O | C11H7FN2O3
